US07781454B2
N-(2-chlorobenzyl)-2-[5-chloro-4-(3-chloro-5-cyanophenoxy)-1H-1,2,3-benzotriazol-1-yl]-N-methylacetamide
3-chloro-5-[(5-chloro-1H-1,2,3-benzotriazol-4-yl)oxy]benzonitrile (25 mg, 0.082 mmol) and lithium tert-butoxide (6.9 mg, 0.089 mmol) were dissolved in DMF (0.5 mL) and allowed to stir for 5 minutes. After this time, the reaction was cooled to 0° C. and 2-chloro-N-(2-chlorobenzyl)-N-methylacetamide as a solution in DMF (0.5 mL) was added dropwise. This was allowed to warm to room temperature and after 16 hours, the reaction was quenched with TFA, diluted with MeCN and purified by reverse phase chromatography eluting with 30-95% MeCN/H2O+0.1% TFA. Product fractions were lyophilized to yield the title compound. 1H NMR (DMSO-d6) δ 7.84 (m, 1H), 7.83 (d, J=9.0 Hz, 1H), 7.79 (d, J=9.0 Hz, 1H), 7.58 (m, 1H), 7.51 (m, 1H), 7.47 (m, 1H), 7.35 (m, 3H), 6.05 (s, 2H), 4.62 (s, 2H), 3.20 (s, 3H).

reactant | 3-chloro-5-[(5-chloro-1H-1,2,3-benzotriazol-4-yl)oxy]benzonitrile | 0.082 mmol, 25 mg | ClC=1C=C(C#N)C=C(C1)OC1=C(C=CC=2NN=NC21)Cl | C13H6Cl2N4O
reactant | lithium tert-butoxide | 0.089 mmol, 6.9 mg | CC(C)([O-])C.[Li+]
reactant | 2-chloro-N-(2-chlorobenzyl)-N-methylacetamide | ClCC(=O)N(C)CC1=C(C=CC=C1)Cl | C10H11Cl2NO
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | N-(2-chlorobenzyl)-2-[5-chloro-4-(3-chloro-5-cyanophenoxy)-1H-1,2,3-benzotriazol-1-yl]-N-methylacetamide | ClC1=C(CN(C(CN2N=NC3=C2C=CC(=C3OC3=CC(=CC(=C3)C#N)Cl)Cl)=O)C)C=CC=C1 | C23H16Cl3N5O2
